US03996289
383 g (7.1 mols) of sodium methylate are dissolved in ethanol and 985 g (6.75 mols) of oxalic acid diethyl ester and 925 g (6.75 mols) of 2-nitrotoluene are poured in. The mixture is heated under reflux for 30 minutes and is allowed to cool, 300 ml of ice water are next added cautiously and after the exothermic reaction has subsided 1,600 ml of water are added. After boiling additionally for 90 minutes under reflux, the mixture is steam-distilled until two phases no longer pass over. The organic phase is separated from the distillate and 310 g of 2-nitrotoluene are recovered from it. The residual aqueous phase of the distillate is filtered, 600 g of (anhydrous) sodium carbonate and 2,000 ml of toluene are added and the mixture is cooled to +3° C. 650 g of solid potassium permanganate are added over the course of 70 minutes and the reaction temperature is kept at between +2° and +6° C. The mixture is stirred for a further 45 minutes at +5° C and then warmed to 40° C, and 50% strength sulphuric acid is then added dropwise (gas being evolved). The exothermic reaction is kept at 35°- 40° C by cooling. Insoluble material is then filtered off and the toluene phase is separated from the filtrate. The filter residue is washed with hot toluene and the combined toluene phases are extracted by shaking with 15% strength sodium carbonate solution and with water and are then dried with the sodium sulphate. On concentrating the toluene phase in vacuo, 2-nitrobenzaldehyde is obtained as a viscous oil which crystallizes immediately on cooling. Melting point 40°- 41° C.

reactant | sodium methylate | 7.1 mols, 383 g | C[O-].[Na+]
reactant | oxalic acid diethyl ester | 6.75 mols, 985 g | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | 2-nitrotoluene | 6.75 mols, 925 g | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
reactant | water | 1,600 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-nitrobenzaldehyde | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
